US04806558
4-[(5,6,7,8-tetrahydro-5,5,8,8-tetramethylnaphth-2-yl)-ethynyl]-benzonitril
A solution of 13.8 g (0.123 mole) of potassium tert.-butylate in 65 ml of dimethyl sulfoxide was added dropwise in the course of 30 minutes to a solution of 22.6 g (0.06 mole) of diethyl 1-chloro-1-(5,6,7,8-tetrahydro-5,5,8,8-tetramethylnaphth-2-yl)-methylphosphonate (about 85% strength) and 7.86 g (0.06 mole) of 4-cyanobenzaldehyde in 190 ml of dry dimethyl sulfoxide at room temperature. Stirring was continued for 1 hour, after which the mixture was poured onto 1 liter of ice water and acidified with a little dilute hydrochloric acid, and the resulting crystals were filtered off under suction. Recrystallization from ethanol gave 9.2 g (49%) of the title compound of melting point 157° C.

reactant | diethyl 1-chloro-1-(5,6,7,8-tetrahydro-5,5,8,8-tetramethylnaphth-2-yl)-methylphosphonate | 0.06 mole, 22.6 g | ClC(C1=CC=2C(CCC(C2C=C1)(C)C)(C)C)P(OCC)(OCC)=O | C19H30ClO3P
reactant | 4-cyanobenzaldehyde | 0.06 mole, 7.86 g | C(#N)C1=CC=C(C=O)C=C1 | C8H5NO
reactant | hydrochloric acid | Cl | ClH
solvent | dimethyl sulfoxide | 65 ml | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 190 ml | CS(=O)C | C2H6OS
product | 4-[(5,6,7,8-tetrahydro-5,5,8,8-tetramethylnaphth-2-yl)-ethynyl]-benzonitril | 9.2 g, 49% | CC1(C=2C=CC(=CC2C(CC1)(C)C)C#CC1=CC=C(C#N)C=C1)C | C23H23N
